US05418243
Ethyl 3-amino-4-methyl-pent-2-en-oate
10.8 g of p-toluenesulphonic acid×4 H2O are added to 500 g (3.16 mol) of ethyl isobutyrylacetate in 1,500 ml of toluene p.a., the mixture is saturated with ammonia gas while stirring at room temperature and allowed to stand overnight. It is then heated under reflux in a water separator and ammonia gas is continuously introduced until the calculated amount of water has separated (47 ml of water after reflux for 8 hours). The mixture is allowed to cool overnight, and the precipitate which has deposited is filtered off with suction and washed with toluene. The combined toluene phases are washed several times with water, dried using sodium sulphate, concentrated in vacuo and distilled in a high vacuum.

reactant | p-toluenesulphonic acid | 10.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2O | O | H2O
reactant | ethyl isobutyrylacetate | 3.16 mol, 500 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | ammonia | N | H3N
solvent | toluene | 1,500 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3-amino-4-methyl-pent-2-en-oate | NC(=CC(=O)OCC)C(C)C | C8H15NO2
